US09290505B2
6-(6-Aminopyrazin-2-yl)-N-(4-(4-(oxetan-3-yl)piperazin-1-yl)phenyl)imidazo[1,2-a]pyrazin-8-amine succinate (Example 2):
To a slurry of di-tert-butyl {6-[8-({4-[4-(oxetan-3-yl)piperazin-1-yl]phenyl}amino)imidazo[1,2-a]pyrazin-6-yl]pyrazin-2-yl}imidodicarbonate (225 g, 0.35 mol, 1 mol eq.) in water (12 parts) was added a solution of sulfuric acid (3.1 parts, 6.99 mol, 20 mol eq.) in water (5 parts). The reaction was heated to ca. 40° C. and stirred at this temperature for ca. 4 h at which point the reaction is deemed complete. The reaction mixture was cooled to ca. 22° C., acetone (3 parts) was charged and a solution of sodium carbonate (4.1 parts, 8.75 mol, 25.0 mol eq.) in water (15 parts) was added. The resulting slurry was filtered and the wet cake was washed with water in portions (4×1 parts), then with tert-butyl methyl ether (4 parts). The wet cake (Example 2 free base) was dried at ca. 60° C. To the slurry of dry Example 2 free base in 2-propanol (2.3 parts) was added a solution of succinic acid (Based on the isolated Example 2 free base: 0.43 parts, 1.6 mol eq.) in 2-propanol (15 parts). The resulting slurry was heated to ca. 40° C. and stirred at this temperature for ca. 2 h and then cooled to ca. 22° C., followed by a stir period of ca. 16 h. The slurry was filtered at ca. 22° C. and the wet cake was washed with 2-propanol (5 parts) and dried at ca. 60° C. to afford the product.

reactant | di-tert-butyl {6-[8-({4-[4-(oxetan-3-yl)piperazin-1-yl]phenyl}amino)imidazo[1,2-a]pyrazin-6-yl]pyrazin-2-yl}imidodicarbonate | 0.35 mol, 225 g | O1CC(C1)N1CCN(CC1)C1=CC=C(C=C1)NC=1C=2N(C=C(N1)C1=CN=CC(=N1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=CN2 | C33H41N9O5
reactant | sulfuric acid | 6.99 mol | S(O)(O)(=O)=O | H2O4S
reactant | acetone | CC(=O)C | C3H6O
reactant | sodium carbonate | 8.75 mol | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 6-(6-Aminopyrazin-2-yl)-N-(4-(4-(oxetan-3-yl)piperazin-1-yl)phenyl)imidazo[1,2-a]pyrazin-8-amine succinate | C(CCC(=O)O)(=O)O.NC1=CN=CC(=N1)C=1N=C(C=2N(C1)C=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C2COC2 | InChI=1S/C23H25N9O.C4H6O4/c24-21-12-25-11-19(28-21)20-13-32-6-5-26-23(32)22(29-20)27-16-1-3-17(4-2-16)30-7-9-31(10-8-30)18-14-33-15-18;5-3(6)1-2-4(7)8/h1-6,11-13,18H,7-10,14-15H2,(H2,24,28)(H,27,29);1-2H2,(H,5,6)(H,7,8)
